US09315458B2
K) methyl 3-chloro-2-ethenyl-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)benzoate
To a solution of methyl 3-chloro-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate (0.24 g) in THF (5.00 mL)-water (5.00 mL) were added potassium vinyltrifluoroborate (0.07 g), cesium carbonate (0.24 g) and tetrakis(triphenylphosphine)palladium(0) (0.01 g), and the mixture was stirred at 90° C. for 16 hr under nitrogen atmosphere. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by prep-thin layer chromatography (ethyl acetate/petroleum ether) to give the title compound (0.08 g).

reactant | methyl 3-chloro-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 0.24 g | ClC=1C(=C(C(=O)OC)C=C(C1C(F)(F)F)CC1=CC=C(C=C1)N1N=CC=C1)OS(=O)(=O)C(F)(F)F | C20H13ClF6N2O5S
reactant | water | 5.00 mL | O | H2O
reactant | potassium vinyltrifluoroborate | 0.07 g | C(=C)[B-](F)(F)F.[K+]
reactant | cesium carbonate | 0.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-chloro-2-ethenyl-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)benzoate | 0.08 g | ClC=1C(=C(C(=O)OC)C=C(C1C(F)(F)F)CC1=CC=C(C=C1)N1N=CC=C1)C=C | C21H16ClF3N2O2
